US04447441
4-Chlorobutyronitrile (0.23 g.) in EtOH (2 ml.) was added to a solution of 2-thiocytosine (0.25 g.) in 0.5 N aqueous NaOH (5 ml.) and the mixture stirred for 18 hours. A further portion of 4-chlorobutyronitrile (0.23 g.) was added and the mixture stirred a further 24 hours. The solution was concentrated in vacuo to 2 ml. and cooled and the crystalline precipitate collected to give 4-[4-aminopyrimid-2-ylthio]butyronitrile (0.3 g.), m.p. 99°-100°.

reactant | 4-Chlorobutyronitrile | 0.23 g | ClCCCC#N | C4H6ClN
reactant | 2-thiocytosine | 0.25 g | N1C(=S)N=C(N)C=C1 | C4H5N3S
reactant | 4-chlorobutyronitrile | 0.23 g | ClCCCC#N | C4H6ClN
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | NaOH | 0.5 N, 5 ml | [OH-].[Na+]
product | 4-[4-aminopyrimid-2-ylthio]butyronitrile | 0.3 g | NC1=NC(=NC=C1)SCCCC#N | C8H10N4S
